US08350044B2
Preparation of N-[2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-2,2,N-trimethyl-3-methylsulfanyl-propionamide (Compound 18)
To a solution of 2,2,2-trifluoro-N-[2-(5-fluoro-pyridin-3-yl)-thiazol-5-yl]-N-methyl-acetamide (244 mg, 0.80 mmol) in methanol (6 mL) was added an aqueous solution of sodium hydroxide (160 mg, 4 mmol, in 3 mL H2O), and the mixture was stirred at room temperature for 45 min. To this solution was added pH 7.0 aqueous buffer and ethyl acetate. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. To this crude material was added DCE (5 mL), 4-dimethylaminopyridine (DMAP, 300 mg, 2.5 mmol) and then a solution of the 2,2-dimethyl-3-methylthiopropionyl chloride (250 mg, 1.5 mmol) in DCE (3.0 mL). This mixture was heated to 75° C. and stirred overnight. The heterogeneous mixture thus obtained was loaded directly onto a chromatographic column Silica gel chromatography (0 to 100% ethyl acetate/hexanes) afforded the product as a red solid (161 mg, 59%): mp 98-102° C.; 1H NMR (300 MHz, CDCl3) δ 8.95 (app s, 1H), 8.51 (d, J=2.8 Hz, 1H), 7.98 (app dt, J=9.3, 2.5 Hz, 1H), 7.66 (s, 1H), 3.59 (s, 3H), 2.87 (s, 3H), 2.17 (s, 2H), 1.47 (s, 6H); ESIMS m/z 340 (M+1).

reactant | 2,2,2-trifluoro-N-[2-(5-fluoro-pyridin-3-yl)-thiazol-5-yl]-N-methyl-acetamide | 0.80 mmol, 244 mg | FC(C(=O)N(C)C1=CN=C(S1)C=1C=NC=C(C1)F)(F)F | C11H7F4N3OS
reactant | sodium hydroxide | 4 mmol, 3 mL, 160 mg | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2,2-dimethyl-3-methylthiopropionyl chloride | 1.5 mmol, 250 mg | CC(C(=S)Cl)(CC)C | C6H11ClS
solvent | methanol | 6 mL | CO | CH4O
catalyst | 4-dimethylaminopyridine | 2.5 mmol, 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCE | 3.0 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-[2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-2,2,N-trimethyl-3-methylsulfanyl-propionamide | 161 mg, 59% | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(C(CSC)(C)C)=O)C | C15H18FN3OS2
